US04098888
To a solution of 10 g. of ethyl α-ethoxyimino-(2-hydroxythiazol-4-yl)acetate in 30 ml. of ethanol is added a solution of 11.47 g. of KOH in 50 ml. of water at room temperature and the mixture is stirred for 25 minutes. The reaction mixture is condensed under reduced pressure and is made acidic with 10% aq. HCl. Ethyl acetate extract of the reaction mixture is extracted with 10% aq.NaHCO3. The aqueous layer is then made acidic with 10% aq. HCl and extracted again with ethyl acetate. From the ethyl acetate extract, after being washed, dried and condensed is obtained a crystalline substance. Recrystallization from benzene-ethanol gives α-ethoxyimino-(2-hydroxythiazol-4-yl)acetic acid. 7.5 g. Melting point: 131.5° C. (dec.).

reactant | ethyl α-ethoxyimino-(2-hydroxythiazol-4-yl)acetate | C(C)ON=C(C(=O)OCC)C=1N=C(SC1)O | C9H12N2O4S
reactant | ethanol | C(C)O | C2H6O
reactant | KOH | [OH-].[K+]
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | α-ethoxyimino-(2-hydroxythiazol-4-yl)acetic acid | C(C)ON=C(C(=O)O)C=1N=C(SC1)O | C7H8N2O4S
